US09278983B2
To a mixture of the crude 1-[2-(2-ethylsulfanyl-phenyl)-3-methyl-3H-imidazo[4,5-b]pyridin-6-yl]-2,2,2-trifluoro-ethanone from Production Example 110-a (773 mg), methanol (5 ml), and THF (20 ml), sodium borohydride (109 mg) was added under ice-cooling. The mixture was stirred at room temperature for 12 hours, and then 1M aqueous sodium hydroxide solution was poured, and extracted with ethyl acetate. The combined organic layer was dried over sodium sulfate, and concentrated under reduced pressure. The residue was subjected to silica gel column chromatography to give 170 mg of 1-[2-(2-ethylsulfanyl-phenyl)-3-methyl-3H-imidazo[4,5-b]pyridin-6-yl]-2,2,2-trifluoro-ethanol (hereinafter referred to as Present Compound 265).

reactant | 1-[2-(2-ethylsulfanyl-phenyl)-3-methyl-3H-imidazo[4,5-b]pyridin-6-yl]-2,2,2-trifluoro-ethanone | C(C)SC1=C(C=CC=C1)C1=NC=2C(=NC=C(C2)C(C(F)(F)F)=O)N1C | C17H14F3N3OS
reactant | methanol | 5 ml | CO | CH4O
reactant | sodium borohydride | 109 mg | [BH4-].[Na+]
reactant | sodium hydroxide | 1M | [OH-].[Na+]
solvent | THF | 20 ml | C1CCOC1 | C4H8O
product | 1-[2-(2-ethylsulfanyl-phenyl)-3-methyl-3H-imidazo[4,5-b]pyridin-6-yl]-2,2,2-trifluoro-ethanol | 170 mg | C(C)SC1=C(C=CC=C1)C1=NC=2C(=NC=C(C2)C(C(F)(F)F)O)N1C | C17H16F3N3OS
